US06350756B1
The mixture of sesamol (270 mg, 2.0 mmol), potassium carbonate (910 mg, 6.6 mmol), ethyl bromoacetate (2.55 ml, 22.9 mmol) and acetone (25 ml) was refluxed for 21 h. After cooling, the mixture was filtered to remove potassium carbonate. The filtrate was concentrated under reduced pressure. To this residue, 20 ml dioxane and 14 ml 5% sodium hydroxide solution were added. After the uiixture was stirred at room temperature overnight, it was acidified with concentrated hydrochloric acid to pH 2, and then extracted three times with ethyl acetate (20 ml each). Organic phases were combined, washed with water and brine, dried over magnesium sulfate, filtered, and then evaporated in vacuo. The residue was recrystallized from chloroform and acetone to give 45 mg 3,4-methylenedioxyphenoxyacetic acid as white crystals, mp 149-151 ° C.

reactant | sesamol | 2.0 mmol, 270 mg | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
reactant | potassium carbonate | 6.6 mmol, 910 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 22.9 mmol, 2.55 ml | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3,4-methylenedioxyphenoxyacetic acid | 45 mg | C1OC=2C=C(OCC(=O)O)C=CC2O1 | C9H8O5
